US07220769B2
Preparation 1. 2-Methoxy-4-cyanobenzaldehyde
Thionyl chloride (50 ml) was added to 2-methoxy-4-cyano benzoic acid (Tetrahedron Letters, 1986, 27(49), 5997–6000) (8 g, 45.2 mmol) in dichloromethane (70 ml) and the solution was refluxed for 5 h. After cooling to room temperature, the solvent was removed under reduced pressure. The crude benzoyl chloride was dissolved in diglime (120 ml), cooled at −78° C. and 1M lithium tritertbutoxyaluminium hydride in THF (46 ml, 46 mmol) was added dropwise in 3 h. Stirring was continued for 30 min at −78° C. then the reaction was allowed to reach 0° C. and quenched with water (15 ml) and 2N NaOH (15 ml). The reaction mixture was stirred for 1 h, filtered and the organic phase was removed under reduced pressure. The crude residue was purified by column chromatography eluting with n-hexane/ethyl acetate 80:20 to give 4 g of the title compound (yield 55%) as a yellow powder, mp=112–114° C.

reactant | Thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxy-4-cyano benzoic acid | 45.2 mmol, 8 g | COC1=C(C(=O)O)C=CC(=C1)C#N | C9H7NO3
reactant | lithium tritertbutoxyaluminium hydride | 1M | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | THF | 46 mmol, 46 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 2-Methoxy-4-cyanobenzaldehyde | 4 g, yield 55% | COC1=C(C=O)C=CC(=C1)C#N | C9H7NO2
